US05681858
(iv) (1S,3S)-3-Phenoxycyclopentanol
To a stirred solution of (1S,3S)-1-phenoxy-3-tetrahydropyranyloxycyclopentane (2.16 g, 8.20 mmol) in methanol (50 ml) was added 6N aqueous hydrochloric acid (5 ml) and the mixture stirred for 2 h at room temperature. Volatiles were removed under reduced pressure and chromatographic purification of the residue {SiO2, 150 g; hexane/ethyl acetate (3:1 )} provided 1.33 g (91%) of the title compound as a colorless oil: 1H NMR δ7.35-7.20 (m, 2H), 6.98-6.82 (m, 3H), 4.97-4.88 (m, 1H), 4.60-4.50 (m, 1H), 2.32-2.01 (m, 4H), 1.97-1.83 (m, 1H), 1.75-1.40 (m, 2H).

reactant | (1S,3S)-1-phenoxy-3-tetrahydropyranyloxycyclopentane | 8.20 mmol, 2.16 g | O(C1=CC=CC=C1)[C@@H]1C[C@H](CC1)OC1OCCCC1 | C16H22O3
reactant | hydrochloric acid | 6N, 5 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | (1S,3S)-3-Phenoxycyclopentanol | 1.33 g, 91% | O(C1=CC=CC=C1)[C@@H]1C[C@H](CC1)O | C11H14O2
